US08604224B2
Step 1: Synthesis Method of 3-Methylphenyl-3-(9-phenyl-9H-fluoren-9-yl)phenylamine (abbreviation: mMemFLPA)
Into a 200 mL three-neck flask were placed 3.2 g (8.1 mmol) of 9-(3-bromophenyl)-9-phenylfluorene and 2.3 g (24.1 mmol) of sodium tert-butoxide. The air in the flask was replaced with nitrogen. To this mixture were added 40.0 mL of toluene, 0.9 mL (8.3 mmol) of m-toluidine, and 0.2 mL of a 10% hexane solution of tri(tert-butyl)phosphine. The temperature of this mixture was set to 60° C., and 44.5 mg (0.1 mmol) of bis(dibenzylideneacetone)palladium(0) was added to the mixture. The temperature of this mixture was raised to 80° C., and the mixture was stirred for 2.0 hours. After that, the mixture was suction-filtered through Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and alumina to give a filtrate. A solid obtained by concentration of the obtained filtrate was purified by silica gel column chromatography (a developing solvent in which the ratio of hexane to toluene was 1:1) and recrystallized from a mixed solvent of toluene and hexane. Accordingly, 2.8 g of a white solid of the object of the synthesis was obtained in 82% yield. The synthesis scheme of Step 1 above is illustrated in the following scheme (J-1).

reactant | 9-(3-bromophenyl)-9-phenylfluorene | 8.1 mmol, 3.2 g | BrC=1C=C(C=CC1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C25H17Br
reactant | sodium tert-butoxide | 24.1 mmol, 2.3 g | CC(C)([O-])C.[Na+]
reactant | m-toluidine | 8.3 mmol, 0.9 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 44.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 40.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Methylphenyl-3-(9-phenyl-9H-fluoren-9-yl)phenylamine | 2.8 g, 82% yield | CC=1C=C(C=CC1)NC1=CC(=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C32H25N
